US08133882B2
199 mg of 7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-3-(4-hydroxybutyl)quinolin-4(1H)-one was dissolved in 11 ml of 1,2-dichloroethane, and 257 mg of triphenylphosphine and 405 mg of carbon tetrabromide were added at room temperature, followed by stirring for 15 minutes. Aqueous saturated sodium hydrogen carbonate was added to the reaction mixture, followed by extraction with chloroform, washing with aqueous saturated sodium chloride, drying over anhydrous sodium sulfate and then concentration under a reduced pressure. The resulting residue was purified by a chromatography to obtain 78 mg of 3-(4-bromobutyl)-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro quinolin-4(1H)-one.

reactant | 7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-3-(4-hydroxybutyl)quinolin-4(1H)-one | 199 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)CCCCO)=O)F | C24H35FN2O2
reactant | triphenylphosphine | 257 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 405 mg | C(Br)(Br)(Br)Br | CBr4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 11 ml | ClCCCl | C2H4Cl2
product | 3-(4-bromobutyl)-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro quinolin-4(1H)-one | 78 mg | BrCCCCC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(CC)CC | C24H34BrFN2O
